US05175301
2-Chloro-5-ethylaminopyridine
A mixture of 10 g (0.078 mole) of 5-amino-2-chloropyridine and 50 ml of ethyl orthoacetate was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in 60 ml of dry THF. Then, the solution was added dropwise to a suspension of 7.0 g of lithium borohydride in 100 ml of dry THF over a period of 15 minutes with constant stirring. After completion of dropwise addition, the mixture was refluxed with stirring for 27 hours. After cooling, the solvent was distilled off. To the residue were added 100 ml of ice-water and 35 ml of concentrated hydrochloric acid and the mixture was heated at 67° C. for a while. After cooling, the reaction mixture was adjusted to pH 7 with NaHCO3 and extracted with AcOEt (50 ml×3). The AcOEt layers were combined, washed with aqueous sodium chloride solution and dried over MgSO4. The AcOEt was distilled off and the residual crystals were collected by filtration, washed with hexane and dried. The procedure gave 9.2 g of the title compound as pale yellowish green crystals.

reactant | 5-amino-2-chloropyridine | 0.078 mole, 10 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | ethyl orthoacetate | 50 ml | C(C)(OCC)([O-])[O-]
product | 2-Chloro-5-ethylaminopyridine | 9.2 g | ClC1=NC=C(C=C1)NCC | C7H9ClN2
